US08182718B2
Hbv=2,2′-Propane-1,3-diyldipyridine
To a flask were added 93 g of 2-picoline, 21 g of 2-vinylpyridine, 1 g of sodium and a trace of hydroquinone. The mixture was heated to 130 C under nitrogen for 2 hours. After cooling to 22 C, 200 ml of water were added and the mixture was extracted with 150 ml diethyl ether. After washing the diethyl ether layer twice with 100 ml of water, and twice with 50 ml of 10% sodium sulfite, the solvent was removed and the product was purified by vacuum distillation to give 7.5 g of a light yellow oil.

reactant | 2-picoline | 93 g | N1=C(C=CC=C1)C | C6H7N
reactant | 2-vinylpyridine | 21 g | C(=C)C1=NC=CC=C1 | C7H7N
reactant | sodium | 1 g | [Na] | Na
reactant | hydroquinone | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | water | 200 ml | O | H2O
product | 2,2′-Propane-1,3-diyldipyridine | 7.5 g | C(CCC1=NC=CC=C1)C1=NC=CC=C1 | C13H14N2
